* SMCNR_SE_2st_AMP -- AC gain / GBW / phase bench on TSMC6 BSIM-CMG
* Measurements follow AnalogGym's TB_AC_SMCNR_SE_2st_AMP; supply, common mode and load
* are the TSMC6 design point.  phase_in_deg is abs() of the principal value
* at crossover (raw auditable reading); the gated margin is pm_true from the
* runner's unwrapped full-sweep dump (tools/acstab.py).
.include ./tsmc6_models.spice
.include ./netlist.spice

.PARAM supply_voltage = 0.75
.PARAM VCM = 0.1875
.PARAM PARAM_CLOAD = 1e-12
Vvdda vdda 0 'supply_voltage'
Vgnda gnda 0 0

* Differential path, broken by a huge L/C so DC bias is preserved.  Both ends
* of the 1T inductor are seeded: with vout alone the operating point falls
* through gmin/source stepping into the transient fallback and never solves.
Vin signal_in 0 dc 'VCM' ac 1
Lfb vout vfb 1T
Cin vfb signal_in 1T
xi1 vdda gnda vfb vin_p vout SMCNR_SE_2st_AMP
Vip vin_p 0 'VCM'
Cload vout 0 'PARAM_CLOAD'
* Internal seeds (rough rail fractions) let the cold end of the temperature
* sweep solve directly instead of through the transient-op fallback.
.nodeset V(vout)=0.1875 V(vfb)=0.1875
.nodeset V(xi1.outp)=0.3375 V(xi1.outn)=0.3375 V(xi1.ibias)=0.3375
.nodeset V(xi1.net53)=0.46875

.measure ac dcgain find vdb(vout) at=0.1
.measure ac gain_bandwidth_product when vdb(vout)=0
.measure ac ph_rad find vp(vout) when vdb(vout)=0
.measure ac phase_in_deg param='abs(ph_rad)*180/3.1416'
.end
